US04399148
To a 500 milliliter round bottom flask equipped with a water condenser, magnetic stirrer and drying tube was added 5.50 grams (0.045 moles) of salicylaldehyde, 4.10 grams (0.050 moles) of sodium acetate and 40 milliliters of ethanol. The resulting mixture was then heated to a temperature of 50° C. and a solution consisting of 7.83 grams (0.040 moles) of 4-amino-1-naphthol hydrochloride in 20 milliliters of water was added thereto. The resulting reaction mixture was stirred for 15 minutes at a temperature of 50° C. and then cooled to room temperature forming a precipitate. The precipitate was removed from the reaction mixture by filtration, washed with water and dried over magnesium sulfate to give 8.68 grams (0.033 moles) of 4-(2-hydroxybenzylideneamino)-1-naphthol in the form of reddish-brown crystals having a melting point of 153.5°-157° C.

reactant | salicylaldehyde | 0.045 moles, 5.50 grams | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium acetate | 0.050 moles, 4.10 grams | C(C)(=O)[O-].[Na+]
reactant | ethanol | 40 milliliters | C(C)O | C2H6O
reactant | 4-amino-1-naphthol hydrochloride | 0.040 moles, 7.83 grams | Cl.NC1=CC=C(C2=CC=CC=C12)O
solvent | water | 20 milliliters | O | H2O
product | 4-(2-hydroxybenzylideneamino)-1-naphthol | 0.033 moles, 8.68 grams | OC1=C(C=NC2=CC=C(C3=CC=CC=C23)O)C=CC=C1 | C17H13NO2
